*$
*//-----------------------------------------------------------------------//
*//   Part No.    : HHXJ350ARA221MHA0G
*//   Date        : 2020/12/04
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXJ350ARA221MHA0G_20deg-C 1 2

C1 4 2 1.19e-04
C2 5 2 3.78e-05
C3 6 2 3.88e-05
R1 3 4 1.11e-02
R2 4 5 1.99e-01
R3 5 6 1.65e+00
L1 1 3 3.70e-09

.ENDS
*$
